US07700637B2
A mixture of 1-iodopropane (1.87 g, 10.98 mmol), methyl orsellinate (2.0 g, 10.98 mmol), and sodium bicarbonate (1.84 g, 21.96 mmol) in DMF is stirred at 60° C. overnight. The mixture is cooled and partitioned between EtOAc and water. The EtOAc layer is washed with brine, dried over magnesium sulfate, and concentrated to give the crude product. Purification by silica gel chromatography using 2% EtOAc in hexane as the eluent gives 2-hydroxy-6-methyl-4-propoxy-benzoic acid methyl ester.

reactant | 1-iodopropane | 10.98 mmol, 1.87 g | ICCC | C3H7I
reactant | methyl orsellinate | 10.98 mmol, 2.0 g | C(C=1C(O)=CC(O)=CC1C)(=O)OC | C9H10O4
reactant | sodium bicarbonate | 21.96 mmol, 1.84 g | C([O-])(O)=O.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-hydroxy-6-methyl-4-propoxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1C)OCCC)O)=O | C12H16O4
